US04897420
trans-6-(4-Acetoxycyclohexyl)hexanoic acid (4.8 g) is dissolved in thionyl chloride (5 ml), and the solution is allowed to stand at room temperature for 3 days. The excess thionyl chloride is distilled off under reduced pressure togive a crude acid chloride. This product is dissolved in petroleum ether (40 ml), and ice-water (20 ml) is added. Thereafter, sodium peroxide (3 g) is added portionwise with ice-cooling and stirring. The mixture is extracted with chloroform and the extract is washed with saturated aqueous sodium chloride and dried over calcium chloride. The solvent is then distilled off under reduced pressure to give bis[trans-6-(4-acetoxycyclohexyl)hexanoyl]peroxide.

reactant | trans-6-(4-Acetoxycyclohexyl)hexanoic acid | 4.8 g | C(C)(=O)O[C@@H]1CC[C@H](CC1)CCCCCC(=O)O | C14H24O4
solvent | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | bis[trans-6-(4-acetoxycyclohexyl)hexanoyl]peroxide | C(C)(=O)O[C@@H]1CC[C@H](CC1)CCCCCC(=O)OOC(CCCCC[C@@H]1CC[C@H](CC1)OC(C)=O)=O | C28H46O8
